US07754737B2
A mixture of (R)-tert-butyl 3-((S)-4-(aminosulfonylamino)-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate (0.0438 g, 0.095 mmol), CH3CN (35 mL) and 2 N aq HCl (30 mL) was vigorously stirred at rt for 24 h. The solvents were removed in vacuo to give the HCl salt of (S)-4-(aminosulfonylamino)-1-(3-chlorophenyl)-1-((R)-piperidin-3-yl)butan-1-ol, which was used without further purification. LC-MS (3 min) tR=0.93 min, m/z 364, 362 (MH+), 285, 283.

reactant | (R)-tert-butyl 3-((S)-4-(aminosulfonylamino)-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate | 0.095 mmol, 0.0438 g | NS(=O)(=O)NCCC[C@@](O)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C20H32ClN3O5S
reactant | HCl | 2 N, 30 mL | Cl | ClH
solvent | CH3CN | 35 mL | CC#N | C2H3N
product | (S)-4-(aminosulfonylamino)-1-(3-chlorophenyl)-1-((R)-piperidin-3-yl)butan-1-ol | NS(=O)(=O)NCCC[C@](O)([C@H]1CNCCC1)C1=CC(=CC=C1)Cl | C15H24ClN3O3S
